US20010007867A1
[2,5-Dimethyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-ethyl-propyl-amine
A mixture of 7-chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a] pyrimidine (200 mg, 0.66 mmol) and N-propylethylamine (2 ml) in 1ml of N-methylpyrrolidinone was heated at 135° C. oil bath for 4 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated and purified through silica gel column chromatography using hexane to 10% ethyl acetate in hexane as eluent to give 150 mg of the title compound as a clear green oil. 1H NMR (CDCl3) δ 6.95(s,2H), 5.80(s,1H), 3.85(q,2H), 3.67(dd,2H), 2.41 (s,3H), 2.32(s,3H), 2.21 (s,3H), 2.03(s,6H), 1.76(m,2H), 1.29(t,3H), 0.98(t,3H) ppm.

reactant | 7-chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a] pyrimidine | 0.66 mmol, 200 mg | ClC1=CC(=NC=2N1N=CC2C2=C(C=C(C=C2C)C)C)C | C16H16ClN3
reactant | N-propylethylamine | 2 ml | C(CC)NCC | C5H13N
reactant | N-methylpyrrolidinone | 1ml | CN1C(CCC1)=O | C5H9NO
product | [2,5-Dimethyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-ethyl-propyl-amine | 150 mg | CC1=NN2C(N=C(C=C2N(CCC)CC)C)=C1C1=C(C=C(C=C1C)C)C | C22H30N4
